US05654445
h) 5(S)-Tert-butoxycarbonylamino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-(3-hydroxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-octanoic acid (N-2-morpholinoethyl)amide
A mixture of 84 mg of 3(S)-isopropyl-5(S)-{1(S)-tert-butoxycarbonylamino-3(S)-isopropyl-4-[4-(3-hydroxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one, 0.6 ml of 4-(2-aminoethyl)-morpholine and 0.025 ml of glacial acetic acid is stirred for 16 hours at room temperature and for 6 hours at 45° C. and is then partitioned between diethyl ether (2×) and saturated NaHCO3 solution (1×) and water (2×). The organic phases are combined, dried over magnesium sulfate and concentrated by evaporation, and the residue is purified by means of FC (5 g of silica gel, dichloromethane/methanol=98:2), yielding the title compound: Rf (dichloromethane/methanol=95:5)=0.16; HPLC Rt =14.49 minutes; FAB-MS (M+H)+ =710.

reactant | 3(S)-isopropyl-5(S)-{1(S)-tert-butoxycarbonylamino-3(S)-isopropyl-4-[4-(3-hydroxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one | 84 mg | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](CC1=CC(=C(C=C1)OCCCO)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)=O | C32H53NO8
reactant | 4-(2-aminoethyl)-morpholine | 0.6 ml | NCCN1CCOCC1 | C6H14N2O
solvent | acetic acid | 0.025 ml | C(C)(=O)O | C2H4O2
product | 5(S)-Tert-butoxycarbonylamino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-(3-hydroxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-octanoic acid (N-2-morpholinoethyl)amide | O1CCN(CC1)CCNC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OCCCO)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)O)C(C)C)=O | C38H67N3O9
